US04904696
0.70 Gram of 3-fluoro-4-aminophenol, 0.06 g of potassium hydroxide and 10 ml of dimethylformamide were added to a reactor and stirred for 20 minutes at an oil bath temperature of from 60° to 70° C. This solution was then violently stirred at the same temperature for 2 hours under the stream of a tetrafluoroethylene gas in excess of said phenol. The reaction solution was cooled and after adding water, extracted with two 150-ml portions of diethyl ether. The ether layers were combined, washed with water, dried and concentrated to obtain a crude porduct. This crude product was subjected to chromatography on silica gel to obtain 1.00 g of 2-fluoro-4-(1,1,2,2-tetrafluoroethoxy)aniline.

reactant | 3-fluoro-4-aminophenol | FC=1C=C(C=CC1N)O | C6H6FNO
reactant | potassium hydroxide | 0.06 g | [OH-].[K+]
reactant | tetrafluoroethylene | FC(=C(F)F)F | C2F4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-fluoro-4-(1,1,2,2-tetrafluoroethoxy)aniline | 1.00 g, Yield: 80% | FC1=C(N)C=CC(=C1)OC(C(F)F)(F)F | C8H6F5NO
